US06878706B1
N-cyano-N-{[isobutyl-(2-morpholin-4-yl-2-oxo-ethyl)-carbamoyl]-methyl}-2-phenyl-acetamide
N-Cyano-2-phenylacetamide (160 mg, 1.00 mmol) was dissolved in 5 mL of dry DMF. Potassium t-butoxide (112 mg, 1.00 mmol) was added. This mixture was stirred at room temperature for 30 min. The 2-bromo-N-isobutyl-N-(2-morpholin-4-yl-2-oxo-ethyl)-acetamide (321 mg, 1.00 mmol) from above was dissolved in 5 mL of dry DMF and added to the reaction mixture. The reaction mixture was stirred at room temperature for 2 h and then heated at 70° C. for 6 h. Solvent was removed in vacuo and residue was purified by HPLC to give the title compound (87 mg, 22%) as a clear oil.

reactant | N-Cyano-2-phenylacetamide | 1.00 mmol, 160 mg | C(#N)NC(CC1=CC=CC=C1)=O | C9H8N2O
reactant | Potassium t-butoxide | 1.00 mmol, 112 mg | CC(C)([O-])C.[K+]
reactant | 2-bromo-N-isobutyl-N-(2-morpholin-4-yl-2-oxo-ethyl)-acetamide | 1.00 mmol, 321 mg | BrCC(=O)N(CC(=O)N1CCOCC1)CC(C)C | C12H21BrN2O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-cyano-N-{[isobutyl-(2-morpholin-4-yl-2-oxo-ethyl)-carbamoyl]-methyl}-2-phenyl-acetamide | 87 mg, 22% | C(#N)N(C(CC1=CC=CC=C1)=O)CC(N(CC(=O)N1CCOCC1)CC(C)C)=O | C21H28N4O4
